US07109234B2
Stage 5: 2-(S)-Ethyl-3-(2-methoxyphenylthio)-propionaldehyde (IId-1)
The title compound (IId-1) is obtained by carrying out the preparation as in example 7 but by replacing, in stage 2, 2-(S)-methyl-3-(2-methoxyphenylthio)propan-1-ol (XXb-1) with 2-(S)-ethyl-3-(2-methoxy-phenylthio)propan-1-ol (XXd-1). This title compound, like the aldehyde (IIb-1), is not isolated but is used in situ in the following reductive amination reaction.

reactant | 2-(S)-methyl-3-(2-methoxyphenylthio)propan-1-ol | C[C@@H](CO)CSC1=C(C=CC=C1)OC | C11H16O2S
reactant | 2-(S)-ethyl-3-(2-methoxy-phenylthio)propan-1-ol | C(C)[C@@H](CO)CSC1=C(C=CC=C1)OC | C12H18O2S
product | 2-(S)-Ethyl-3-(2-methoxyphenylthio)-propionaldehyde | C(C)[C@@H](C=O)CSC1=C(C=CC=C1)OC | C12H16O2S
